US04690943
1-Acetyl-3-(2-furoyl)-2-oxindole
Acetylation of 3-(2-furoyl)-2-oxindole with acetic anhydride, substantially according to the procedure of Example 1, afforded a 73% yield of the title compound, m.p. 137.5°-138.5° C.

reactant | 3-(2-furoyl)-2-oxindole | O1C(=CC=C1)C(=O)C1C(NC2=CC=CC=C12)=O | C13H9NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-3-(2-furoyl)-2-oxindole | 73% yield | C(C)(=O)N1C(C(C2=CC=CC=C12)C(=O)C=1OC=CC1)=O | C15H11NO4
